US06600045B2
(3R)-[3-(4-Trifluoromethyl-phenylamino)-pentanoyl]-carbamic Acid Methyl Ester
A clean, dry and nitrogen gas purged 100 L glass tank was charged with (3R)-3-(4-trifluoromethyl-phenylamino)-pentanoic acid amide (6094 g, 23.42 mol), isopropyl ether (30 L) and methyl chloroformate (2.7 kg, 29 mol). The resulting slurry was cooled to 2° C. The reaction tank was then charged with lithium t-butoxide solution (18-20% in THF, 24.6 kg, ˜58 mol) at such a rate as to maintain the internal temperature below 10° C. and preferably at a temperature of about 5° C. Ten minutes after addition of base was complete, the reaction was quenched by the addition of 1.5 M hydrochloric acid (36 L). The aqueous layer was removed, and the organic phase extracted with saturated NaCl/water solution (10 L). The aqueous layer was removed and the organic phase was concentrated by distillation under vacuum and at a temperature of about 50° C. until the volume was reduced to about 24 L. Cyclohexane (48 L) was added to the reaction vessel and distillation was again repeated at an internal temperature of about 45-50° C. under vacuum until the volume of solution in the vessel was reduced to 24 L. A second portion of cyclohexane (48 L) was added to the reaction vessel and distillation was again repeated at an internal temperature of about 45-50° C. under vacuum until the volume of solution in the vessel was reduced to 24 L. While holding the temperature at 50° C., the solution was seeded with (3R)-[3-(4-trifluoromethyl-phenylamino)-pentanoyl]-carbamic acid methyl ester and allowed to granulate while stirring for 2 hours. The solution was then cooled slowly (over 1.5 hours) to room temperature and allowed to granulate while stirring for 15 hours. The mixture was filtered. The resulting solids were rinsed with cyclohexane (10 L) and dried under vacuum at 40° C. to afford 7504 g of the title compound (94%).

reactant | (3R)-3-(4-trifluoromethyl-phenylamino)-pentanoic acid amide | 23.42 mol, 6094 g | FC(C1=CC=C(C=C1)N[C@@H](CC(=O)N)CC)(F)F | C12H15F3N2O
reactant | methyl chloroformate | 29 mol, 2.7 kg | ClC(=O)OC | C2H3ClO2
reactant | lithium t-butoxide | ˜58 mol, 24.6 kg | CC(C)([O-])C.[Li+]
solvent | isopropyl ether | 30 L | C(C)(C)OC(C)C | C6H14O
product | (3R)-[3-(4-Trifluoromethyl-phenylamino)-pentanoyl]-carbamic Acid Methyl Ester | 7504 g, 94% | COC(NC(C[C@@H](CC)NC1=CC=C(C=C1)C(F)(F)F)=O)=O | C14H17F3N2O3
